US04968683
6-[4-[4-[3-(1H-Imidazol-4-yl)propylamino-carbonyl]piperazin-1-yl]-3-nitro-phenyl]-4,5-dihydro-5-methyl-3(2H)pyridazinone
3.0 g (9.5 mmol) of 6-[4-(1-Piperazinyl)-3-nitro-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone and 1.7 g (10.5 mmol) of carbonyl diimidazole are stirred together in 30 ml of DMF at room temperature for 2 hours. 1.88 g (15 mmol) of 3-(1H-imidazol-4-yl)-propylamine are then added and the reaction mixture is heated to 70° C. for 8 hours. After cooling, 10 ml of a saturated aqueous potassium carbonate solution are added and the reaction mixture is extracted with chloroform. The organic phase is concentrated by evaporation under vacuum and the residue is chromatographed on silica gel (Solvent F). Concentration of the main fractions by evaporation and crystallization of the residue yields 2.3 g (52% of theoretical) of orange crystals which have a melting point of 182° C.

reactant | 6-[4-(1-Piperazinyl)-3-nitro-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 9.5 mmol, 3.0 g | N1(CCNCC1)C1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C15H19N5O3
reactant | carbonyl diimidazole | 10.5 mmol, 1.7 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3-(1H-imidazol-4-yl)-propylamine | 15 mmol, 1.88 g | N1C=NC(=C1)CCCN | C6H11N3
reactant | potassium carbonate | 10 ml | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 6-[4-[4-[3-(1H-Imidazol-4-yl)propylamino-carbonyl]piperazin-1-yl]-3-nitro-phenyl]-4,5-dihydro-5-methyl-3(2H)pyridazinone | N1C=NC(=C1)CCCNC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C22H28N8O4
